US03935218
Ten grams of 5-(4-chlorophenyl)-2,3-dihydro-5H-imidazo[2,1-a]isoindol-5-ol, as described in Example X, are suspended in 75 ml. of absolute ethanol and then saturated with a continuous flow of hydrochloric acid gas. The resulting solution is filtered, evaporated to dryness and the residue recrystallized from ethanol-ethyl acetate to afford 4'-chloro-2-(2-imidazolin-2-yl)benzophenone hydrochloride, m.p. 170°-2°C., dec., as a white crystalline solid which is soluble in water.

reactant | 5-(4-chlorophenyl)-2,3-dihydro-5H-imidazo[2,1-a]isoindol-5-ol | Ten grams | ClC1=CC=C(C=C1)C1(N2C(C3=CC=CC=C13)=NCC2)O | C16H13ClN2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 4'-chloro-2-(2-imidazolin-2-yl)benzophenone hydrochloride | Cl.ClC1=CC=C(C=C1)C(C1=C(C=CC=C1)C=1NCCN1)=O | InChI=1S/C16H13ClN2O.ClH/c17-12-7-5-11(6-8-12)15(20)13-3-1-2-4-14(13)16-18-9-10-19-16;/h1-8H,9-10H2,(H,18,19);1H
